US08980877B2
(E)-3-(1′-Cyclopentyl-4-(hydroxyimino)spiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide
A mixture of (E)-3-(1′-cyclopentyl-4-oxospiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide hydrochloride (80 mg, 0.197 mmol), hydroxylamine hydrochloride (27.3 mg, 0.393 mmol) and pyridine (0.032 ml, 0.393 mmol) in ethanol (2 ml) was heated at 80° C. The solvent was removed in vacuo and the crude was purified by preparative LC-MS to give the title compound (9.56 mg) as trifluoroacetate

reactant | (E)-3-(1′-cyclopentyl-4-oxospiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide hydrochloride | 0.197 mmol, 80 mg | Cl.C1(CCCC1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO
reactant | hydroxylamine hydrochloride | 0.393 mmol, 27.3 mg | Cl.NO
reactant | pyridine | 0.393 mmol, 0.032 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (E)-3-(1′-Cyclopentyl-4-(hydroxyimino)spiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide | 9.56 mg | C1(CCCC1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=NO)/C=C/C(=O)NO | C21H27N3O4
